US06498159B1
A mixture of 8.5 g 2-trifluoromethyl anisole and 7.0 g hexamethylene tetramine was stirred at 90° C. for 1.5 hr in 80 ml trifluoroacetic acid. The reaction solution was evaporated. The resulting residue was dissolved in ethyl acetate, and it was added dropwise into ice-cooled saturated aqueous sodium bicarbonate. The ethyl acetate layer was recovered and washed with brine. It was dried over anhydrous magnesium sulfate, filtered, and evaporated. The resulting residue was purified by silica gel column chromatography to give 5.8 g of 3-trifluoromethyl-p-anisaldehyde.

reactant | 2-trifluoromethyl anisole | 8.5 g | FC(C1=C(C=CC=C1)OC)(F)F | C8H7F3O
reactant | hexamethylene tetramine | 7.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 80 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-trifluoromethyl-p-anisaldehyde | 5.8 g | FC(C=1C=C(C=O)C=CC1OC)(F)F | C9H7F3O2
